US05958905
N-(3,4-dimethyl-5-isoxazolyl)diphenyl phosphinic amide was prepared by the method of Example 1 with 3,4-dimethyl-5-amino isoxazole (0.22 g, 2.0 mmol), diphenyl phosphinic chloride (0.6 ml, 3.0 mmol) and pyridine (5 ml). Flash chromatography (5% methanol/chloroform) followed by recrystallization from ethyl acetate and hexanes provided 0.38 g (61%) of white crystals, m.p. 167-170° C.

reactant | 3,4-dimethyl-5-amino isoxazole | 2.0 mmol, 0.22 g | CC1=NOC(=C1C)N | C5H8N2O
reactant | diphenyl phosphinic chloride | 3.0 mmol, 0.6 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(3,4-dimethyl-5-isoxazolyl)diphenyl phosphinic amide | CC1=NOC(=C1C)NP(=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17N2O2P
